US04614798
2,6-Dimethylphenylisothiocyanate (15.0 g, 0.093 mole) was added to 3-amino-1-propanol (6.9 g, 0.093 mole) in 60 ml of ether, and the mixture was heated to reflux for 0.5 hr. After the ether was evaporated, 60 ml of concentrated hydrochloric acid was added and refluxing was continued for 0.5 hr. The cooled reaction mixture was treated with 60 ml of water and filtered. The filtrate was made basic with dilute sodium hydroxide, and the precipitate was collected by filtration and washed with water. Recrystallization from ethanol-water (charcoal) gave 16.3 g (80%) of xylazine, m.p. 136°-138° C. (lit. m.p. 140°-141° C.). This step was run three times with yields ranging from 80 to 93%.

reactant | 2,6-Dimethylphenylisothiocyanate | 0.093 mole, 15.0 g | CC1=C(C(=CC=C1)C)N=C=S | C9H9NS
reactant | 3-amino-1-propanol | 0.093 mole, 6.9 g | NCCCO | C3H9NO
reactant | water | 60 ml | O | H2O
solvent | ether | 60 ml | CCOCC | C4H10O
product | xylazine | 16.3 g, 80% | CC=1C=CC=C(C1NC2=NCCCS2)C | C12H16N2S
